US04233453
4-Propadienyl-4-trimethylsilyloxy-1-octyne
To a stirred, ice-cold solution of 10.85 g. (66.1 mmol.) of 4-hydroxy-4-propadienyl-1-octyne and 13.2 g. (194 mmol.) of imidazole in 50 ml. of dimethylformamide at 0° C. is added 9.5 ml. of chlorotrimethylsilane. The solution is kept at 0° C. for 70 hours and diluted with petroleum ether. The resulting mixture is shaken with water at 0° C. The organic layer is washed with water and brine, dried over magnesium sulfate and concentrated to give the title compound as a liquid.

reactant | 4-hydroxy-4-propadienyl-1-octyne | 66.1 mmol | OC(CC#C)(CCCC)C=C=C | C11H16O
reactant | imidazole | 194 mmol | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | water | O | H2O
product | 4-Propadienyl-4-trimethylsilyloxy-1-octyne | C(=C=C)C(CC#C)(CCCC)O[Si](C)(C)C | C14H24OSi
